US06194426B1
2-Methyl-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile is prepared as described in Example 1, from 11.7 g of N-nicotinoyl piperidine-2-carboxylic acid (prepared according to European Patent Application EP 118321), 10 g of paratoluenesulphonyl chloride, from 24.6 cm3 of triethylamine and from 4.8 cm3 of 2-chlorocrotononitrile. 4.3 g of 2-methyl-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile are thus obtained in the form of a white powder melting at 125° C. 1.7 g of a 70/30 mixture of this compound and of its regioisomer, 1-methyl-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile are also obtained.

reactant | N-nicotinoyl piperidine-2-carboxylic acid | 11.7 g | C(C1=CN=CC=C1)(=O)N1C(CCCC1)C(=O)O | C12H14N2O3
reactant | paratoluenesulphonyl chloride | 10 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-chlorocrotononitrile | 4.8 cm3 | Cl/C(/C#N)=C\C | C4H4ClN
solvent | triethylamine | 24.6 cm3 | C(C)N(CC)CC | C6H15N
product | 2-methyl-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile | 4.3 g | CC=1C(=C2CCCCN2C1C=1C=NC=CC1)C#N | C15H15N3
